US07834019B2
20 mL of pyridine was added to a chloroform solution of 7.5 g of 2-allyl-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one, 6.1 g of copper(II) acetate and 10 g of [3-(methoxycarbonyl)]phenylboronic acid, and stirred at room temperature for 3 days. Aqueous 30% ammonia solution and saturated saline water were added to the reaction liquid in that order, and extracted with chloroform. The organic layer was washed with saturated saline water, then dried with anhydrous magnesium sulfate, and the solvent was evaporated away. The crude product was purified through silica gel column chromatography (hexane/ethyl acetate) to obtain 6.7 g of methyl 3-[2-allyl-6-(methylthio)-3-oxo-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-1-yl]benzoate as a yellow oily substance.

reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-allyl-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one | 7.5 g | C(C=C)N1NC2=NC(=NC=C2C1=O)SC | C9H10N4OS
reactant | [3-(methoxycarbonyl)]phenylboronic acid | 10 g | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | ammonia | N | H3N
catalyst | copper(II) acetate | 6.1 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-[2-allyl-6-(methylthio)-3-oxo-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-1-yl]benzoate | 6.7 g | C(C=C)N1N(C2=NC(=NC=C2C1=O)SC)C=1C=C(C(=O)OC)C=CC1 | C17H16N4O3S
